US07462630B2
Synthesis of ethyl 2-oxo-2-[4-(9H-thioxanthen-9-ylidene)-1-piperidinyl]ethylcarbamate:
50 mg (0.134 mmol) of 2-[4-(9H-thioxanthen-9-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride was dissolved in dichloroethane. 41 mg (0.405 mmol) of triethylamine was added to the obtained solution. A solution of 17.5 mg (0.161 mmol) of ethyl chloroformate in 0.5 ml of dichloromethane was added to the resultant mixture. After stirring for 15 minutes, the product was purified by the thin-layer silica gel chromatography (hexane:ethyl acetate=85:100) to obtain the title compound.

reactant | 2-[4-(9H-thioxanthen-9-ylidene)-1-piperidinyl]-2-oxoethanamine hydrochloride | 0.134 mmol, 50 mg | Cl.C1=CC=CC=2SC3=CC=CC=C3C(C12)=C1CCN(CC1)C(CN)=O
reactant | triethylamine | 0.405 mmol, 41 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.161 mmol, 17.5 mg | ClC(=O)OCC | C3H5ClO2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | ethyl 2-oxo-2-[4-(9H-thioxanthen-9-ylidene)-1-piperidinyl]ethylcarbamate | O=C(CNC(OCC)=O)N1CCC(CC1)=C1C2=CC=CC=C2SC=2C=CC=CC12 | C23H24N2O3S
